US08383631B2
3-amino-1-[{4-(2,4-dimethylphenyl)piperazin-1-yl}propanoyl]-6-N-benzyl-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridin-7-one (Compound 17)
Potassium carbonate (68.2 mg, 0.494 mmol) was added to a solution of t-butyl-3-amino-6-benzyl-4,5,6,7-tetrahydro-7-oxapyrazolo[3,4-c]pyridin-1-carboxylate (154 mg, 0.449 mmol) dissolved in anhydrous acetonitrile (1.9 mL) and then stirred at room temperature for 30 minutes. After adding 3-chloro-1-{4-(2,4-dimethylphenyl)piperazin-1-yl}propan-1-one (132.2 mg, 0.471 mmol), reaction was carried out overnight. A target compound (25.4 mg, 0.052 mmol, 11.6%) was yielded as white solid.

reactant | Potassium carbonate | 0.494 mmol, 68.2 mg | C([O-])([O-])=O.[K+].[K+]
reactant | t-butyl-3-amino-6-benzyl-4,5,6,7-tetrahydro-7-oxapyrazolo[3,4-c]pyridin-1-carboxylate | 0.449 mmol, 154 mg | C(C)(C)(C)OC(=O)N1N=C(C2=C1ON(CC2)CC2=CC=CC=C2)N | C17H22N4O3
reactant | 3-chloro-1-{4-(2,4-dimethylphenyl)piperazin-1-yl}propan-1-one | 0.471 mmol, 132.2 mg | ClCCC(=O)N1CCN(CC1)C1=C(C=C(C=C1)C)C | C15H21ClN2O
solvent | acetonitrile | 1.9 mL | C(C)#N | C2H3N
product | 3-amino-1-[{4-(2,4-dimethylphenyl)piperazin-1-yl}propanoyl]-6-N-benzyl-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridin-7-one | 0.052 mmol, 25.4 mg, 11.6% | NC1=NN(C=2C(N(CCC21)CC2=CC=CC=C2)=O)C(CCN2CCN(CC2)C2=C(C=C(C=C2)C)C)=O | C28H34N6O2
